US08563570B2
Step 2. Benzyl (5S)-1-oxo-2-{trans-4-[(triethylsilyl)oxy]cyclohexyl}-2,7-diazaspiro[4.5]decane-7-carboxylate
To a solution of benzyl (5S)-2-(trans-4-hydroxycyclohexyl)-1-oxo-2,7-diazaspiro[4.5]decane-7-carboxylate (2.0 g, 0.0052 mol) in N,N-dimethylformamide (5 mL, 0.06 mol) were added 1H-imidazole (0.986 g, 0.0145 mol) and chlorotriethylsilane (1.13 mL, 0.00673 mol) at rt. After stirring for 2 h ice-water was added and the resulting mixture was stirred at room temperature for 30 minutes and extracted three times with AcOEt. The combined extracts were washed with brine, dried over sodium sulfate, and concentrated. The residual oil was purified by column chromatography using 30% by volume AcOEt in hexanes.

reactant | benzyl (5S)-2-(trans-4-hydroxycyclohexyl)-1-oxo-2,7-diazaspiro[4.5]decane-7-carboxylate | 0.0052 mol, 2.0 g | O[C@@H]1CC[C@H](CC1)N1C([C@@]2(CC1)CN(CCC2)C(=O)OCC2=CC=CC=C2)=O | C22H30N2O4
reactant | N,N-dimethylformamide | 0.06 mol, 5 mL | CN(C=O)C | C3H7NO
reactant | 1H-imidazole | 0.0145 mol, 0.986 g | N1C=NC=C1 | C3H4N2
reactant | chlorotriethylsilane | 0.00673 mol, 1.13 mL | Cl[Si](CC)(CC)CC | C6H15ClSi
product | Benzyl (5S)-1-oxo-2-{trans-4-[(triethylsilyl)oxy]cyclohexyl}-2,7-diazaspiro[4.5]decane-7-carboxylate | O=C1N(CC[C@@]12CN(CCC2)C(=O)OCC2=CC=CC=C2)[C@@H]2CC[C@H](CC2)O[Si](CC)(CC)CC | C28H44N2O4Si
